US06831148B2
3.80 g (6.98 mmol) 3,5-dinitrobenzoic acid 6-[3-(3-methoxy-4-butyloxyphenyl)acryloyloxy]hexyl ester and 1.47 g (27.48 mmol) of ammonium chloride were suspended in 75 ml of a mixture consisting of methanol:water 9:1. 9.07 g (0.139 mol) of zinc powder was then added in one portions. The reaction temperature rose to 36° C. The suspension was then heated at 40° C. for 1.5 hours. The reaction suspension was partitioned between dichloromethane and water. The resulting suspension was filtered, the organic phase was washed with a saturated sodium bicarbonate solution and repeatedly with water. The organic phase was then dried over sodium sulfate, filtered and concentrated by evaporation to yielded 3.47 g (99%) 3,5-diaminobenzoic acid 6-[3-(3-methoxy-4-butyloxyphenyl)acryloyloxy]hexyl ester as yellow oil

reactant | 3,5-dinitrobenzoic acid 6-[3-(3-methoxy-4-butyloxyphenyl)acryloyloxy]hexyl ester | 6.98 mmol, 3.80 g | COC=1C=C(C=CC1OCCCC)C=CC(=O)OCCCCCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C27H32N2O10
reactant | ammonium chloride | 27.48 mmol, 1.47 g | [Cl-].[NH4+]
catalyst | zinc | 0.139 mol, 9.07 g | [Zn] | Zn
solvent | methanol water | CO.O
product | 3,5-diaminobenzoic acid 6-[3-(3-methoxy-4-butyloxyphenyl)acryloyloxy]hexyl ester | 3.47 g, 99% | COC=1C=C(C=CC1OCCCC)C=CC(=O)OCCCCCCOC(C1=CC(=CC(=C1)N)N)=O | C27H36N2O6
